US09108983B2
Step A: 4-Bromo-1-cyclopropyl-1H-pyrazole
4-Bromo-1H-pyrazole (1.76 g, 12 mmol) is dissolved in anhydrous dimethylformamide (15 mL). Cyclopropyl bromide (2.9 mL, 36 mmol) and caesium carbonate (7.8 g, 24 mmol) are successively added thereto. The reaction mixture is heated for 15 hours at 160° C. in a sealed flask. At the end of the reaction, the solvent is evaporated off in vacuo and the residue is purified by chromatography over silica gel using heptane and dichloromethane as eluants to yield the expected compound.

reactant | 4-Bromo-1H-pyrazole | 12 mmol, 1.76 g | BrC=1C=NNC1 | C3H3BrN2
reactant | Cyclopropyl bromide | 36 mmol, 2.9 mL | C1(CC1)Br | C3H5Br
reactant | caesium carbonate | 24 mmol, 7.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-Bromo-1-cyclopropyl-1H-pyrazole | BrC=1C=NN(C1)C1CC1 | C6H7BrN2
